US04024164
2-Benzoyloxyethoxyethyl erucate
2-Benzoyloxyethoxyethyl erucate was prepared by the procedure of Example 1 from 21 gms (0.1 mole) of diethylene glycol monobenzoate and 35.5 gms (0.1 mole) of erucoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | diethylene glycol monobenzoate | 0.1 mole, 21 gms | C(C1=CC=CC=C1)(=O)OCCOCCO | C11H14O4
reactant | erucoyl chloride | 0.1 mole, 35.5 gms | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)Cl | C22H41ClO
product | 2-Benzoyloxyethoxyethyl erucate | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)OCCOCCOC(C1=CC=CC=C1)=O | C33H54O5
